US07666970B2
Choline 2-ethylhexanoate
272.13 g of a 40% solution of choline hydroxide and 145.73 g of 2-ethylhexanoic acid were stirred vigorously for 30 min at RT in a glass flask with reflux condenser, heatable oil bath, mechanical stirrer and internal thermometer. Water and methanol were distilled off in a rotary evaporator at 30-45° C. under a vacuum increased gradually to 20 mbar. The product was then taken up in n-hexane and re-evaporated in the rotary evaporator and dried at 0.1 mbar and 40° C. for 2 h, giving a slightly colored, viscous liquid whose 1H-NMR spectrum showed equi-molar ratios of choline and ethylhexanoate, but only a weak signal in the region of aliphatic carboxylic acids.

reactant | choline hydroxide | [OH-].OCC[N+](C)(C)C
reactant | 2-ethylhexanoic acid | 145.73 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | choline | OCC[N+](C)(C)C
reactant | ethylhexanoate | C(C)OC(CCCCC)=O | C8H16O2
product | Choline 2-ethylhexanoate | CCCCC(CC)C(=O)[O-].C[N+](C)(C)CCO | InChI=1S/C8H16O2.C5H14NO/c1-3-5-6-7(4-2)8(9)10;1-6(2,3)4-5-7/h7H,3-6H2,1-2H3,(H,9,10);7H,4-5H2,1-3H3/q;+1/p-1
